US05136868
To a stirred mixture of 0.8 g (0.0029 mole) of 1-(2,4-dichloro-5-hydroxyphenyl)-1,4-dihydro-4-ethyl-5H-tetrazol-5-one, 2.8 g (0.032 mole) of N,N-dimethylacetamide, and 0.14 g (0.0029 mole) of sodium hydride (50% in oil) in 25 mL of toluene was added 0.47 g (0.0058 mole) of chloromethyl methyl ether. The reaction mixture was stirred at room temperature for approximately 18 hours then poured into ice water and extracted with diethyl ether. The extract was dried over anhydrous magnesium sulfate, filtered, and the filtrate evaporated to leave a solid. The solid was purified by recrystallization from heptane to yield 0.19 g of 1-(2,4-dichloro-5-methoxymethoxyphenyl)-1,4-dihydro-4-ethyl-5H-tetrazol-5-one, mp 112°-113° C.

reactant | 1-(2,4-dichloro-5-hydroxyphenyl)-1,4-dihydro-4-ethyl-5H-tetrazol-5-one | 0.0029 mole, 0.8 g | ClC1=C(C=C(C(=C1)Cl)O)N1N=NN(C1=O)CC | C9H8Cl2N4O2
reactant | N,N-dimethylacetamide | 0.032 mole, 2.8 g | CN(C(C)=O)C | C4H9NO
reactant | sodium hydride | 0.0029 mole, 0.14 g | [H-].[Na+]
reactant | chloromethyl methyl ether | 0.0058 mole, 0.47 g | COCCl | C2H5ClO
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(2,4-dichloro-5-methoxymethoxyphenyl)-1,4-dihydro-4-ethyl-5H-tetrazol-5-one | 0.19 g | ClC1=C(C=C(C(=C1)Cl)OCOC)N1N=NN(C1=O)CC | C11H12Cl2N4O3
